US07405210B2
Preparation 79: 2-(S)-Carbamoyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of N-Boc-L-pipecolinic acid (200 mg, 0.87 mmol) in DMF (3.5 mL) was added TBTU (336 mg, 1.05 mmol), ammonium chloride (93 mg, 1.74 mmol) then DIPEA (182 μL, 1.05 mmol) and the reaction stirred for 16 h. The mixture was partitioned between ethyl acetate (2×30 mL) and water (30 mL), and the organics combined before being washed with 1M sodium hydroxide (3×30 mL) and brine (3×30 mL). The organic solution was dried (MgSO4) and solvent removed in vacuo to give the title compound as a white solid. δH (d6 DMSO): 7.23 (1H, s), 6.97 (1H, s), 4.56–4.39 (1H, br m), 3.43–3.74 (1H, d), 3.14–2.90 (1H, br m), 2.09–2.00 (1H, d), 1.63–1.47 (3H, m), 1.30–1.17 (2H, m).

reactant | N-Boc-L-pipecolinic acid | 0.87 mmol, 200 mg | CC(C)(C)OC(=O)N1CCCC[C@H]1C(=O)O | C11H19NO4
reactant | TBTU | 1.05 mmol, 336 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonium chloride | 1.74 mmol, 93 mg | [Cl-].[NH4+]
reactant | DIPEA | 1.05 mmol, 182 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 2-(S)-Carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(N)=O | C11H20N2O3
